US09303033B2
To N-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)cyclopropanecarboxamide (74 mg, 0.26 mmol) in 1.0 mL ethanol was added hydantoin (26 mg, 0.26 mmol) and piperidine (24 ul). The reaction was heated at 80° C. for two hours. The reaction mixture was cooled to room temperature, concentrated and diluted with MeOH. The product was purified by prep HPLC to yield 14 mg (20% yield) (Z)—N-(7-(cyclopropylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-5-yl)cyclopropanecarboxamide. LCMS (M+1=368)

reactant | N-(7-(cyclopropylamino)-3-formylpyrazolo[1,5-a]pyrimidin-5-yl)cyclopropanecarboxamide | 0.26 mmol, 74 mg | C1(CC1)NC1=CC(=NC=2N1N=CC2C=O)NC(=O)C2CC2 | C14H15N5O2
reactant | hydantoin | 0.26 mmol, 26 mg | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | piperidine | 24 ul | N1CCCCC1 | C5H11N
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | (Z)—N-(7-(cyclopropylamino)-3-((2,5-dioxoimidazolidin-4-ylidene)methyl)pyrazolo[1,5-a]pyrimidin-5-yl)cyclopropanecarboxamide | 14 mg, 20% yield | C1(CC1)NC1=CC(=NC=2N1N=CC2\C=C\2/NC(NC2=O)=O)NC(=O)C2CC2 | C17H17N7O3
